resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 21.886611
R2 0 n2 1.008388
R3 0 n4 1.015498
R4 n1 n3 1.019076
R5 n1 n5 0.989646
R6 n2 n3 1.003131
R7 n2 n6 0.994658
R8 n3 n7 0.999798
R9 n4 n5 0.986675
R10 n4 n6 0.991323
R11 n5 n7 0.982451
R12 n6 n7 1.012674
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
